US04997844
Benzenesulphinamide was prepared by reacting benzenesulphinyl chloride with ammonia in ether initially at -78° C. and finally at ambient temperature and was isolated in 17% yield as a solid, m.p. 112°-115° C.

reactant | benzenesulphinyl chloride | C1(=CC=CC=C1)S(=O)Cl | C6H5ClOS
reactant | ammonia | N | H3N
solvent | ether | CCOCC | C4H10O
product | Benzenesulphinamide | 17% yield | C1(=CC=CC=C1)S(=O)N | C6H7NOS
